US07718692B2
B. Pyridine-2-carboxylic acid (4-hydroxy-phenyl)-amide.
A solution of pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide (7.7 g, 25.3 mmol) in 90% ethanol (110 mL) was hydrogenated (60 psi) over 10% palladium on carbon (0.8 g) at 50° C. for 4 hours. The catalyst was removed by filtration, and the solvent was evaporated in vacuo. The residue was purified by flash chromatography on silica gel, using methanol/dichloromethane (DCM),5/95, as the eluant, to give the product as a beige solid, 2.54 g (47%). MS m/z 215 (MH+). 1H NMR(DMSO-d6) δ 6.76 (d, 2H), 7.54 to 7.76 (m, 3H), 8.05 (t, 1H), 8.14 (d, 1H), 8.72 (d, 1H), 9.30 (s, 1H) and 10.41 (s, 1H). Anal. calcd for C12H10N2O2: C, 67.28; H, 4.71; N, 13.08. Found: C, 66.99; H, 4.56; N, 12.81.

reactant | pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide | 25.3 mmol, 7.7 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C19H16N2O2
solvent | ethanol | 110 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
product | Pyridine-2-carboxylic acid (4-hydroxy-phenyl)-amide | OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C12H10N2O2
